US06927230B2
Potassium cyanate (8.41 g, 104 mmol) was added to a solution of 5-hydrazino-2-methoxypyridine dihydrochloride (20 g, 94.3 mmol) in water (200 mL). The mixture was stirred for 2 hour and adjusted pH to 7. The solvent was removed under reduced pressure and obtained crude powder to give 2-(6-methoxypyridin-3-yl)hydrazinecarboxamide. (25.4 g, 148% yield).

reactant | Potassium cyanate | 104 mmol, 8.41 g | [O-]C#N.[K+]
reactant | 5-hydrazino-2-methoxypyridine dihydrochloride | 94.3 mmol, 20 g | Cl.Cl.N(N)C=1C=CC(=NC1)OC
solvent | water | 200 mL | O | H2O
product | 2-(6-methoxypyridin-3-yl)hydrazinecarboxamide | 148% yield | COC1=CC=C(C=N1)NNC(=O)N | C7H10N4O2
